US04863482
Preparation of 2-(β-hydroxyethyl)amino-4-(β-hydroxyethyl)amino-6-(β-hydroxyethyl)aminonitrobenzene
0.0072 mole (2 g) of 2-(β-hydroxyethyl)amino-6-(β-hydroxyethyl)amino-4-chloronitrobenzene, synthesized in stage 1 of example 2, was heated at 100°-110° C. with 6 ml of ethanolamine for 6 hours. The reaction medium was diluted with ice water then brought to neutrallity by addition of concentrated hydrochloric acid to precipitate out the desired product. After filtering and hot drying under vacuum in the presence of P2O5, it was recrystallized from 96° ethanol. It melted at 200° C.

reactant | 2-(β-hydroxyethyl)amino-6-(β-hydroxyethyl)amino-4-chloronitrobenzene | 0.0072 mole, 2 g | OCCNC1=C(C(=CC(=C1)Cl)NCCO)[N+](=O)[O-] | C10H14ClN3O4
reactant | ethanolamine | 6 ml | C(O)CN | C2H7NO
reactant | hydrochloric acid | Cl | ClH
product | 2-(β-hydroxyethyl)amino-4-(β-hydroxyethyl)amino-6-(β-hydroxyethyl)aminonitrobenzene | OCCNC1=C(C(=CC(=C1)NCCO)NCCO)[N+](=O)[O-] | C12H20N4O5
